US08748458B2
Pyridin-3-yl-pyridin-2-yl-amine (I)
2-Bromopyridine (0.3 mL, 3.16 mmol), 3-aminopyridine (327 mg, 3.48 mmol), tBuOK (532 mg, 4.74 mmol), (±)-BINAP (79 mg, 0.126 mmol) and Pd2(dba)3 (72 mg, 0.079 mmol) were stirred in toluene (5 mL) at 90° C. under Ar(g) for 19 h. The reaction mixture was then diluted with CH2Cl2 (5 mL) and silica was added followed by the removal of the solvent under reduced pressure. The resulting dry loaded material was purified by silica gel column chromatography eluting with CH2Cl2/MeOH (100:3 to 100:6) to furnish I as a brown oil (483 mg, 90%).

reactant | 2-Bromopyridine | 3.16 mmol, 0.3 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | 3-aminopyridine | 3.48 mmol, 327 mg | NC=1C=NC=CC1 | C5H6N2
reactant | tBuOK | 4.74 mmol, 532 mg | C(C)(C)(C)O[K]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.079 mmol, 72 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Pyridin-3-yl-pyridin-2-yl-amine | 483 mg, 90% | N1=CC(=CC=C1)NC1=NC=CC=C1 | C10H9N3
